US08486952B2
8-(4-bromophenyl)-2,4-dichloro-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine (Preparation L) (500 mg, 1.389 mmol) and methanamine hydrochloride (141 mg, 2.083 mmol) were combined and purified as per Preparation Ha to give 8-(4-bromophenyl)-2-chloro-N-methyl-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-4-amine (210 mg, 0.592 mmol, 42.6% yield). LC-MS (M+H)+=356.0. 1H NMR (500 MHz, MeOD) δ ppm 7.46 (2H, d, J=8.24 Hz), 7.13 (2H, d, J=8.55 Hz), 4.43-4.71 (2H, m), 4.09 (1H, dd, J=11.44, 4.12 Hz), 3.92-4.03 (1H, m), 3.86 (1H, d, J=3.05 Hz), 3.00 (3H, s).

reactant | 8-(4-bromophenyl)-2,4-dichloro-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine | 1.389 mmol, 500 mg | BrC1=CC=C(C=C1)C1COCC2=C1N=C(N=C2Cl)Cl | C13H9BrCl2N2O
reactant | methanamine hydrochloride | 2.083 mmol, 141 mg | Cl.CN
product | 8-(4-bromophenyl)-2-chloro-N-methyl-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-4-amine | 0.592 mmol, 210 mg, 42.6% yield | BrC1=CC=C(C=C1)C1COCC2=C1N=C(N=C2NC)Cl | C14H13BrClN3O
